US04056526
Propyl 3-hydroxy-benzo[b]thiophene-2-carboximidate
16.8 g (0.1 mol) of methyl thiosalicylate are added dropwise to a solution of 4.6 g (0.2 mol) of sodium in 400 ml of anhydrous n-propanol. To this mixture 17.2 (0.1 mol) of propyl chloroacetimidate hydrochloride are slowly added and the resultant mixture is heated under reflux for 6 hours. The reaction mixture is evaporated under vacuum and the residue distributed between water and dichloromethane. The organic phase is dried, evaporated, and the residue recrystallized from ethyl acetate/diisopropylether solution to yield 6.2 g of yellow crystals with an m.p. of 185° C.

reactant | methyl thiosalicylate | 0.1 mol, 16.8 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | sodium | 0.2 mol, 4.6 g | [Na] | Na
reactant | propyl chloroacetimidate hydrochloride | Cl.ClCC(OCCC)=N
solvent | n-propanol | 400 ml | C(CC)O | C3H8O
product | Propyl 3-hydroxy-benzo[b]thiophene-2-carboximidate | 6.2 g | OC=1C2=C(SC1C(OCCC)=N)C=CC=C2 | C12H13NO2S
